US07015218B1
1-(4-Chlorophenyl)-5-methyl-N-[4-(4-morpholinopiperidin-1-yl)-3-trifluoromethylphenyl]pyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 150 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (0.77 g) and 4-(4-morpholinopiperidin-1-yl)-3-trifluoromethylaniline (1 g), the title compound (1.1 g) was obtained, melting point: 193–194° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 0.77 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 4-(4-morpholinopiperidin-1-yl)-3-trifluoromethylaniline | 1 g | O1CCN(CC1)C1CCN(CC1)C1=C(C=C(N)C=C1)C(F)(F)F | C16H22F3N3O
product | 1-(4-Chlorophenyl)-5-methyl-N-[4-(4-morpholinopiperidin-1-yl)-3-trifluoromethylphenyl]pyrazole-4-carboxamide | 1.1 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCOCC1)C(F)(F)F | C27H29ClF3N5O2
